US09079866B2
(2-Bromo-5-(trifluoromethyl)phenyl)(morpholino)methanone
2-Bromo-5-(trifluoromethyl)benzoic acid (200 mg, 0.74 mmol) was dissolved in DMF (4.65 mL) and HATU (424 mg, 1.12 mmol) added to the resultant mixture at rt. The solution was stirred for 10 min then treated with N,N-diisopropylethylamine (0.51 mL, 3.0 mmol) and morpholine (0.096 mL, 1.1 mmol). The reaction was stirred for 15 hours then quenched by the addition of saturated NH4Cl (5 mL) and EtOAc (5 mL). The aqueous phase was extracted with ethyl acetate (3×10 mL) and the combined organic extracts washed with brine, dried over Na2SO4 and concentrated to dryness. The crude product was purified by FCC to give the title compound. 1H NMR (500 MHz, CDCl3) δ 7.76-7.71 (m, 1H), 7.55-7.49 (m, 2H), 3.92-3.86 (m, 1H), 3.83-3.69 (m, 4H), 3.66-3.58 (m, 1H), 3.32-3.24 (m, 1H), 3.25-3.17 (m, 1H).

reactant | 2-Bromo-5-(trifluoromethyl)benzoic acid | 0.74 mmol, 200 mg | BrC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4BrF3O2
reactant | HATU | 1.12 mmol, 424 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.51 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | morpholine | 1.1 mmol, 0.096 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 4.65 mL | CN(C)C=O | C3H7NO
product | (2-Bromo-5-(trifluoromethyl)phenyl)(morpholino)methanone | BrC1=C(C=C(C=C1)C(F)(F)F)C(=O)N1CCOCC1 | C12H11BrF3NO2
